US09328076B2
4. Synthesis of 2-(3,5-dimethoxyphenylamino)-4-methylamino-6-chloro-1,3,5-triazine
The title compound was synthesized from 2-methylamino-4,6-dichloro-1,3,5-triazine and 3,5-dimethoxyaniline using a similar procedure to the one used in 2. Yield: 73%; Tm 240° C.; FTIR (CH2Cl2/KBr) 3338, 3254, 3136, 3118, 3001, 2955, 2939, 2907, 2838, 1638, 1614, 1583, 1560, 1536, 1484, 1468, 1455, 1431, 1422, 1397, 1384, 1273, 1251, 1228, 1206, 1191, 1176, 1151, 1127, 1072, 1064, 986, 923, 874, 846, 836, 805, 795, 739, 717, 683 cm−1; 1H NMR (300 MHz, DMSO-d6, 298 K) δ 10.02, 9.84 (s, s, 1H), 8.12, 8.00 (s, s, 1H), 7.08, 7.00 (s, s, 2H), 6.19 (s, 1H), 3.71 (s, 6H), 2.85, 2.80 (s, d, 3J=4.7 Hz, 3H) ppm; 13C NMR (75 MHz, DMSO-d6): δ 168.3, 167.5, 165.8, 165.7, 163.6, 163.0, 160.2, 140.6, 140.5, 98.5, 98.1, 94.9, 94.5, 54.9, 27.4, 27.2 ppm; HRMS (EI) calcd. for C12H14ClN5O2 (m/e): 295.0836. found: 295.0843.

reactant | 2-methylamino-4,6-dichloro-1,3,5-triazine | CNC1=NC(=NC(=N1)Cl)Cl | C4H4Cl2N4
reactant | 3,5-dimethoxyaniline | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | CH2Cl2 KBr | C(Cl)Cl.[K+].[Br-]
product | 2-(3,5-dimethoxyphenylamino)-4-methylamino-6-chloro-1,3,5-triazine | Yield: 73% | COC=1C=C(C=C(C1)OC)NC1=NC(=NC(=N1)NC)Cl | C12H14ClN5O2
